US05939439
Step 6: Preparation of 2-Hydroxy 4-imidazol-1-ylmethyl-benzonitrile
4-Bromomethyl-2-hydroxybenzonitrile (0.222 g, 1.045 mmol) and imidazole (0.356 g, 5.23 mmol) were stirred in DMF (10 mL) at ambient temperature for 18 hr. The reaction mixture was concentrated in vacuo to remove the DMF, and the residue was chromatographed (SiO2, 2-5% CH3OH in CH2Cl2) to give the title compound.

reactant | 4-Bromomethyl-2-hydroxybenzonitrile | 1.045 mmol, 0.222 g | BrCC1=CC(=C(C#N)C=C1)O | C8H6BrNO
reactant | imidazole | 5.23 mmol, 0.356 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Hydroxy 4-imidazol-1-ylmethyl-benzonitrile | OC1=C(C#N)C=CC(=C1)CN1C=NC=C1 | C11H9N3O
